US07799805B2
(4-Chloro-3-cyclopropylaminomethyl-benzyl)-(2-fluoro-ethyl)-carbamic acid tert-butyl ester
A mixture of (4-chloro-3-formyl-benzyl)-(2-fluoro-ethyl)-carbamic acid tert-butyl ester (850 mg, 2.69 mmol) and cyclopropylamine (0.290 mL, 4.05 mmol) in MeOH (27 mL) was heated to reflux for 4 h. The mixture was allowed to cool to rt, and NaBH4 (153 mg, 4.40 mmol) was added in portions. The mixture was stirred for 1 h. The solvents were removed under reduced pressure, and EtOAc was added. The resulting mixture was washed with aq. sat. NaHCO3 and brine. The org. layer was dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (CH2Cl2/MeOH 95:5) yielded the title compound (845 mg, 88%). LC-MS: tR=0.76 min; ES+: 357.19.

reactant | (4-chloro-3-formyl-benzyl)-(2-fluoro-ethyl)-carbamic acid tert-butyl ester | 2.69 mmol, 850 mg | C(C)(C)(C)OC(N(CCF)CC1=CC(=C(C=C1)Cl)C=O)=O | C15H19ClFNO3
reactant | cyclopropylamine | 4.05 mmol, 0.290 mL | C1(CC1)N | C3H7N
reactant | NaBH4 | 4.40 mmol, 153 mg | [BH4-].[Na+]
solvent | MeOH | 27 mL | CO | CH4O
product | (4-Chloro-3-cyclopropylaminomethyl-benzyl)-(2-fluoro-ethyl)-carbamic acid tert-butyl ester | 845 mg, 88% | C(C)(C)(C)OC(N(CCF)CC1=CC(=C(C=C1)Cl)CNC1CC1)=O | C18H26ClFN2O2
